US03960970
The hydrogenation of the crude piperitenone is expediently carried out at temperatures at which as much d,l-menthol as possible is present in the menthol isomer mixture and no splitting off of water to form p-menthane takes place. Temperatures of 100° to 260°C, especially of 160° to 220°C, have proved advantageous.

reactant | piperitenone | CC1=CC(=O)C(=C(C)C)CC1 | C10H14O
reactant | d,l-menthol | C[C@@H]1CC[C@H]([C@@H](C1)O)C(C)C | C10H20O
reactant | menthol | C1(CC(C(CC1)C(C)C)O)C | C10H20O
solvent | water | O | H2O
product | p-menthane | C1(CCC(CC1)C(C)C)C | C10H20
